US06797726B1
In 30 mL of tetrahydrofuran is dissolved 6.00 g of N-[2-(2-benzo[b]thiophen-5-ylethoxy)ethyl]-N,N-diethylamine. The solution is cooled to −60° C., and 10.6 mL of 1.57 mol/L solution of n-butyllithium in hexane is dropwise added. The resulting mixture is stirred at the same temperature as above for one hour, an excessive amount of dry carbon dioxide gas is introduced, after which the temperature is elevated to ambient temperature and the mixture is stirred for 30 minutes. Water is added to the mixture, pH is adjusted to 7 with 2 mol/L hydrochloric acid, and the solvent is distilled off under reduced pressure. The residue is purified by reversed phase column chromatography (eluent:water:methanol=7:3) and filtered together with ethyl acetate. Thus, 3.66 g of 5-{2-[2-(diethylamino)ethoxy]ethyl}-benzo[b]thiophene-2-carboxylic acid is obtained as a crystalline product.

reactant | N-[2-(2-benzo[b]thiophen-5-ylethoxy)ethyl]-N,N-diethylamine | 6.00 g | S1C2=C(C=C1)C=C(C=C2)CCOCCN(CC)CC | C16H23NOS
reactant | n-butyllithium | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | Water | O | H2O
product | 5-{2-[2-(diethylamino)ethoxy]ethyl}-benzo[b]thiophene-2-carboxylic acid | 3.66 g | C(C)N(CCOCCC1=CC2=C(SC(=C2)C(=O)O)C=C1)CC | C17H23NO3S
